US05929117
1-(3,4-Dimethoxyphenyl)-1-(3-ethoxy-4-methoxyphenyl)but-1-ene was prepared analogously to methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate using 3,4-dimethoxy-3'-ethoxy-4'-methoxybenzophenone (1 g, 3.2 mmol), propyltriphenylphosphonium bromide (1.34 g, 3.5 mmol) and lithium hexamethyldisilazide (2.7 mL, 3.5 mmol, 1.3M) with a reaction time of 2.5 hours at room temperature. The crude mixture was purified by chromatography (silica gel, methylene chloride) followed by a Kugelrohr distillation to yield 0.77 g (71%) of a mixture of the E and Z isomers as an oil: 1H NMR (CDCl3) δ 6.92-6.65 (m, 12H), 6.02-5.89 (m, 2H), 4.12-3.96 (m, 4H), 3.92 (s, 3H), 3.86 (s, 3H), 3.85 (s, 3H), 3.82 (s, 3H), 3.81 (s, 3H), 2.22-2.04 (m, 4H), 1.51-1.38 (m, 6H), 1.14-0.98 (m, 6H); 13C NMR (CDCl3) δ 148.5, 148.1, 147.8, 147.7, 140.4, 140.4, 136.0, 135.9, 133.0, 132.9, 130.1, 130.0, 122.2, 119.8, 114.6, 113.1, 112.0, 111.0, 110.7, 110.4, 64.3, 64.2, 55.9, 23.2, 14.8, 14.7; Anal. Calcd for C21H26O4. Theoretical: C, 73.66; H, 7.65. Found: C, 73.32; H, 7.26.

reactant | methyl 3,3-bis-(3,4-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 3,4-dimethoxy-3'-ethoxy-4'-methoxybenzophenone | 3.2 mmol, 1 g | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OCC)C=CC1OC | C18H20O5
reactant | propyltriphenylphosphonium bromide | 3.5 mmol, 1.34 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium hexamethyldisilazide | 3.5 mmol, 1.3M, 2.7 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 1-(3,4-Dimethoxyphenyl)-1-(3-ethoxy-4-methoxyphenyl)but-1-ene | COC=1C=C(C=CC1OC)C(=CCC)C1=CC(=C(C=C1)OC)OCC | C21H26O4
